US07250515B2
To the solution of (3-methanesulfonyl-4-phenyl-quinolin-6-yl)-methanol (example 61 h, 90 mg, 0.29 mmol) in methylene chloride (10 ml), activated manganese oxide (250 mg, 2.88 mmol) was added. The reaction mixture was heated at the refluxing temperature for 45 min. After cooling to the room temperature, the reaction mixture was filtered through a bed of celit with methylene chloride. The filtrate was collected and concentrated in vacuo to give 3-methanesulfonyl-4-phenyl-quinoline-6-carbaldehyde. LC-MS m/e 312 (MH+).

reactant | (3-methanesulfonyl-4-phenyl-quinolin-6-yl)-methanol | 0.29 mmol, 90 mg | CS(=O)(=O)C=1C=NC2=CC=C(C=C2C1C1=CC=CC=C1)CO | C17H15NO3S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese oxide | 2.88 mmol, 250 mg | [O-2].[Mn+2]
product | 3-methanesulfonyl-4-phenyl-quinoline-6-carbaldehyde | CS(=O)(=O)C=1C=NC2=CC=C(C=C2C1C1=CC=CC=C1)C=O | C17H13NO3S
